* CL05B104KP5NNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Sep-06-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 100nF
*     Capacitance Tolerance = +/-10%
*     TCC = X7R(-55 ~ +125 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.05mm
*     Width = 0.50+/-0.05mm
*     Thickness = 0.50+/-0.05mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05B104KP5NNN_Precise_DC0V_25degC 1 2
C1 1 3 9.52036E-8
C2 3 4 5.47077E-6
C3 4 5 4.50392E-6
C4 5 6 4.65124E-6
C5 6 7 4.57298E-6
C6 7 8 4.47238E-6
C7 8 9 3.04133E-6
C8 9 10 6.13766E-7
C16 17 18 1.78892E-5
C17 18 19 6.18447E-4
C18 19 20 7.63519E-5
C19 20 21 2.41144E-4
C20 21 22 2.29656E-4
C21 22 23 2.35721E-5
C22 23 24 2.53303E-4
C23 24 25 5.46825E-7
C24 25 26 1.30974E-7
C25 26 27 1.44297E-8
C26 27 28 9.06941E-12
C27 28 2 2.53303E-4
L10 11 12 8.68566E-11
L11 12 13 1.0E-10
L12 13 14 1.27550E-11
L13 14 15 4.19490E-11
L14 15 16 1.81745E-11
L15 16 17 1.0E-10
L16 17 18 4.08120E-10
L17 18 19 6.48191E-12
L18 19 20 2.35450E-11
L19 20 21 4.10190E-12
L20 21 22 2.60132E-12
L21 22 23 1.76022E-11
L22 23 24 1.0E-10
L23 24 25 1.31680E-11
L24 25 26 2.83963E-11
L25 26 27 5.97430E-11
L26 27 28 3.98367E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 1665.65090
R3 4 5 225.47836
R4 5 6 28.75761
R5 6 7 4.00379
R6 7 8 0.54436
R7 8 9 0.07731
R8 9 10 0.00756
R9 10 11 0.01001
R11 12 13 1.0E-6
R12 13 14 0.03585
R13 14 15 0.12789
R14 15 16 0.32607
R15 16 17 1.0E-6
R16 17 18 0.00420
R17 18 19 2.09440E-4
R18 19 20 0.00167
R19 20 21 6.37791E-4
R20 21 22 2.86951E-4
R21 22 23 4.60899E-4
R22 23 24 1.0E-6
R23 24 25 0.01182
R24 25 26 0.02405
R25 26 27 0.03683
R26 27 28 5.98008
R27 28 2 1.0E-6
.ENDS CL05B104KP5NNN_Precise_DC0V_25degC